US09340556B2
To a yellow solution of 1-ethyl-6-fluoro-3-(hydroxymethyl)-7,8-bis((4-methoxybenzyl)oxy) quinolin-4(1H)-one (33 g, 66.9 mmol) in Dichloromethane (DCM) (200 mL) was added manganese dioxide (58.1 g, 669 mmol), and the mixture was stirred at rt for 6.5 h. The mixture was then filtered through Celite and the solid was washed with DCM. The filtrate was concentrated in vacuo to afford 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde (25 g, 50.9 mmol, 76% yield) as a yellow solid, which was used in the next step without further purification. LCMS: (M+H)+: 492.3.

reactant | 1-ethyl-6-fluoro-3-(hydroxymethyl)-7,8-bis((4-methoxybenzyl)oxy) quinolin-4(1H)-one | 66.9 mmol, 33 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)F)=O)CO | C28H28FNO6
solvent | Dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 669 mmol, 58.1 g | [O-2].[O-2].[Mn+4]
product | 1-ethyl-6-fluoro-7,8-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydroquinoline-3-carbaldehyde | 50.9 mmol, 25 g, 76% yield | C(C)N1C=C(C(C2=CC(=C(C(=C12)OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)F)=O)C=O | C28H26FNO6
